US07026339B2
To a solution of 2-fluorobenzaldehyde (3.54 g, 28.5 mmol) in DMA (20 mL) is added p-cresol (3.08 g, 28.5 mmol) and K2CO3 (4.72 g, 34.2 mmol), and the reaction mixture is heated to 150° C. for 12 h. Once complete, the reaction mixture is cooled to room temperature and diluted with water (100 mL) prior to being poured into a separatory funnel containing ethyl acetate (250 mL). The organic layer is separated, washed with brine (2×) and dried over sodium sulfate prior to concentration. The crude product is purified by column chromatography (5% ethyl acetate in hexanes) to afford 2-(4-methylphenoxy)-benzaldehyde (3.05 g, 50%) as a light yellow oil.

reactant | 2-fluorobenzaldehyde | 28.5 mmol, 3.54 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | p-cresol | 28.5 mmol, 3.08 g | C1=CC(=CC=C1O)C | C7H8O
reactant | K2CO3 | 34.2 mmol, 4.72 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 100 mL | O | H2O
product | 2-(4-methylphenoxy)-benzaldehyde | 3.05 g, 50% | CC1=CC=C(OC2=C(C=O)C=CC=C2)C=C1 | C14H12O2
